US04490369
1-[7,8-Dimethoxy-2,3,4,5-tetrahydro-1H-3-benzazepin-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}ethyl)-amino]-propane dihydrochloride
2.7 gm (6 mmols) of 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}ethyl)-amino]-propane were dissolved in 100 ml of absolute ether and 100 ml of absolute tetrahydrofuran; the solution was mixed with 0.25 gm of lithium aluminum hydride, and the mixture was refluxed for 3.5 hours. After cooling, a 10% ammonium chloride solution was added, while cooling was continued; then the mixture was suction-filtered, and the filtrate was concentrated by evaporation. The residue was purified on a silica gel column with methylene chloride. The fractions were concentrated by evaporation, the residue was dissolved in acetone, and the dihydrochloride was precipitated with methanolic hydrochloric acid.

reactant | 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}ethyl)-amino]-propane | 6 mmols, 2.7 gm | COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC(=C(C=C2)OC)OC)C)=O)C=C1OC | C26H36N2O5
reactant | lithium aluminum hydride | 0.25 gm | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-[7,8-Dimethoxy-2,3,4,5-tetrahydro-1H-3-benzazepin-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}ethyl)-amino]-propane dihydrochloride | Cl.Cl.COC1=CC2=C(CCN(CC2)CCCN(CCC2=CC(=C(C=C2)OC)OC)C)C=C1OC | InChI=1S/C26H38N2O4.2ClH/c1-27(14-9-20-7-8-23(29-2)24(17-20)30-3)12-6-13-28-15-10-21-18-25(31-4)26(32-5)19-22(21)11-16-28;;/h7-8,17-19H,6,9-16H2,1-5H3;2*1H
